US05348978
a) (R)-2-Hydroxy-3-((1-methylethyl)thio)propanoic acid
Sodium (7.09 g, 308 mmol) in methanol (100 ml) was added over 35 min to a stirred solution of (R)-2-bromo-3-hydroxypropanoic acid (25.5 g, 151 mmol) in methanol (200 ml) at -25°. The temperature was allowed to reach 10° and the mixture stirred for a further 2 h. 2-Propanethiol (11.4 ml, 240 mmol) in sodium methoxide solution, prepared from sodium (5.68 g, 247 mmol) and methanol (100 ml) was added to this suspension (240 ml, 120 mmol) at -5°. After 16 h at room temperature the solvent was evaporated and the residue dissolved in water/ether/conc. hydrochloric acid to a final pH of approximately 1. The organic phase was separated and the aqueous phase re-extracted with ether (×2). The combined organic extracts were dried (Na2SO4) and the solvent evaporated to give the sub-title compound (18.56 g).

reactant | Sodium | 308 mmol, 7.09 g | [Na] | Na
reactant | (R)-2-bromo-3-hydroxypropanoic acid | 151 mmol, 25.5 g | Br[C@@H](C(=O)O)CO | C3H5BrO3
reactant | 2-Propanethiol | 240 mmol, 11.4 ml | CC(C)S | C3H8S
reactant | sodium | 247 mmol, 5.68 g | [Na] | Na
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | (R)-2-Hydroxy-3-((1-methylethyl)thio)propanoic acid | 18.56 g | O[C@H](C(=O)O)CSC(C)C | C6H12O3S
